US06013658
((1R)-1-(5-Carbamoyl-[1,3,4]oxadiazol-2-yl)-2-phenylethyl)methylcarbamic acid tert-butylester (350 mg, 1.01 mmol) was dissolved in dichloromethane (6 ml). The solution was cooled to 0° C. Trifluoroacetic acid (2 ml) was added dropwise. The solution was stirred for 30 min. The solvent was removed in vacuo. The residue was dissolved in dichloromethane (6 ml) and the solvent was removed in vacuo. The residue was again dissolved in dichloromethane (6 ml) and the solvent was removed in vacuo. The residue was dissolved in dichloromethane (10 ml). This phase was washed with water. The aqueous phase was lyophilized to give 247 mg of crude 5-((1R)-1-methylamino-2-phenylethyl)-[1,3,4]oxadiazole-2-carboxylic acid amide, which was used for the further synthesis.

reactant | ((1R)-1-(5-Carbamoyl-[1,3,4]oxadiazol-2-yl)-2-phenylethyl)methylcarbamic acid tert-butylester | 1.01 mmol, 350 mg | C(C)(C)(C)OC(N(C)[C@H](CC1=CC=CC=C1)C=1OC(=NN1)C(N)=O)=O | C17H22N4O4
reactant | Trifluoroacetic acid | 2 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 6 ml | ClCCl | CH2Cl2
product | 5-((1R)-1-methylamino-2-phenylethyl)-[1,3,4]oxadiazole-2-carboxylic acid amide | 247 mg | CN[C@H](CC1=CC=CC=C1)C1=NN=C(O1)C(=O)N | C12H14N4O2
